### PR TITLE
Lemma 4.4 from WHIR

### PR DESCRIPTION
**Pull request by ElijahVlasov**
Bounds on list decodability of interleaved RS-codes

### CODE REVIEW

**Review by quangvdao — APPROVED** [review]
Thanks, Ilia (and Aristotle) — this is a clean and useful formalization.

I reviewed exact head `349d7f2815f73717894287aa747a3ba0e1aacaae` against the recorded PR base `e92dc315f453db88dd7351c88e889caf0e6bf269`, and checked integration against current upstream `main` at `5a9626d331d713c7e74efa7e3d93b7d0ec9c4dc2`.

## Verdict

Approved. I found no mathematical-correctness, source-correspondence, abstraction, or trust-boundary blocker.

## Statement and source review

- `Code.card_le_of_pairwise_agree_le` correctly isolates the alphabet-agnostic Johnson-type counting argument: pairwise agreement bounded by (s²|ι|) yields list size at most (1/(2ηs)) inside radius (1-s-η).
- `agree_lt_of_mem_interleavedCodeSet` correctly reduces equality of interleaved symbols to equality in a differing row and applies the Reed–Solomon agreement bound.
- `interleaved_listDecodable` then instantiates the generic theorem with `sqrtRate`, whose square is `min m |ι| / |ι|`. This matches WHIR Lemma 4.4 in the intended nonsaturated regime.
- The Lean statement is safely a little stronger than the paper: it does not require a nonempty interleaving index or the paper's upper bound on (η). At the boundary cases, distinct codewords are impossible or the decoding radius becomes negative, so this does not create an unsound claim.

The abstraction split is good: the generic combinatorial result lives in `ListDecodability/AgreementBound`, while the Reed–Solomon module supplies only the code-specific pairwise-agreement fact. No new `sorry`, `admit`, unsafe declaration, or axiom is introduced.

## Validation

- All hosted checks are green on the exact reviewed head, including the clean build, validation wrapper, blueprint/docs, imports, docs integrity, and whitespace.
- A synthetic merge-tree check against current upstream `main` is clean.
- I did not rerun the full validation suite on that synthetic current-main merge; updating the branch should trigger that final integration run.

## Nonblocking polish before merge

- Please retitle this in the repository's conventional format, for example `feat(coding-theory): prove interleaved RS list-decodability`.
- The PR body would be more reviewer-friendly if it named WHIR Lemma 4.4, the new generic agreement theorem, and the safe strengthening described above.

Thank you for pushing this through — the resulting theorem boundary is reusable and well chosen.

File: ArkLib/Data/CodingTheory/ListDecodability/AgreementBound.lean [hunk 1]
```diff
@@ -0,0 +1,104 @@
...
+namespace Code
+
+open Finset
+
+variable {ι : Type*} [Fintype ι] [Nonempty ι] {A : Type*} [DecidableEq A]
+
+/-- **Johnson-type counting bound.** If distinct codewords of `C` agree in at most `s² · |ι|`
+positions, then any finite set of codewords within relative distance `1 - s - η` of a word `y`
+has at most `1 / (2ηs)` elements. -/
+theorem card_le_of_pairwise_agree_le {C : Set (ι → A)} {s η : ℝ} (hs : 0 < s) (hη : 0 < η)
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ListDecodability/AgreementBound.lean:29]: see https://github.com/Verified-zkEVM/ArkLib/blob/5b263f48679353ef5eca390027999247af5d6e54/ArkLib/Data/CodingTheory/ReedSolomon/ListDecodability.lean#L34

File: ArkLib/Data/CodingTheory/ReedSolomon/Interleaved.lean [hunk 2]
```diff
@@ -159,5 +163,62 @@ lemma interleavedCodeSet_rsCode_eq_irsCode {ι : Type*} {F : Type*} [Field F]
...
+  (η : ℝ≥0) (hη : 0 < η) :
+  Code.IsListDecodable
+    (Code.interleavedCodeSet (κ := Fin k) (ReedSolomon.code domain m : Set (ι → F)))
+    (1 - (ReedSolomon.sqrtRate m domain) - η)
+    (1 / (2 * η * (ReedSolomon.sqrtRate m domain))) := by
+  classical
+  have hnpos : (0 : ℝ) < Fintype.card ι := by exact_mod_cast Fintype.card_pos
+  have hs : 0 < (ReedSolomon.sqrtRate m domain : ℝ) := ReedSolomon.sqrtRate_pos hm
+  have hηR : (0 : ℝ) < (η : ℝ) := by exact_mod_cast hη
+  rw [Code.isListDecodable_iff_forall_finset_card_le]
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon/Interleaved.lean:205]: when rebasing, this should work:
`refine Code.isListDecodable_of_forall_finset_card_le fun y T hT => ?_`

**Review by alexanderlhicks — APPROVED** [review]
